US06316637B1
1-Isopropyl-4-bromo-5-aminobenzimidazole.
To a solution of 1-isopropyl-5-aminobenzimidazole (2.4 g, 14 mmol) in 20 ml of AcOH was added solution of Br2 in AcOH until it produces a precipitation. The reaction mixture was concentrated in vacuo to provide a brown solid which was subjected to column chromatography (5% NH3 sat'd MeOH/CH2Cl2) to provide 1.2 g (4.5 mmol, 35%) of the product.

reactant | 1-isopropyl-5-aminobenzimidazole | 14 mmol, 2.4 g | C(C)(C)N1C=NC2=C1C=CC(=C2)N | C10H13N3
reactant | Br2 | BrBr | Br2
reactant | NH3 | N | H3N
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | AcOH | 20 ml | CC(=O)O | C2H4O2
product | 1-Isopropyl-4-bromo-5-aminobenzimidazole | 4.5 mmol, 1.2 g, 35% | C(C)(C)N1C=NC2=C1C=CC(=C2Br)N | C10H12BrN3
